US04695573
3,4-Dihydro-9-(3-fluorobenzylamino)acridin-1(2H)-one
In 300 ml of toluene and 200 ml of 30% potassium hydroxide were combined 8.00 g of 9-amino-3,4-dihydroacridin-1(2H)-one and 1.92 g of tetrabutylammonium hydrogen sulfate catalyst. The mechanically stirred mixture was heated to reflux and a solution of 9.25 ml of 3-fluorobenzyl bromide in 40 ml of toluene was added over 0.5 hour. Then the reaction was further refluxed for 2 hours. The reaction mixture was then poured into 500 ml of ice and the layers were separated. The aqueous layer was extracted with ethyl acetate. The organics were combined and washed with saturated NaCl solution, dried over magnesium sulfate, filtered and evaporated to a solid. The solid was purified by preparative HPLC (ethyl acetate). The product-containing fractions were combined and concentrated to a solid. The solid was recrystallized from 1:1 dichloromethane/pentane to yield 7.15 g of solid, mp 156°-157° C.

reactant | potassium hydroxide | 200 ml | [OH-].[K+]
reactant | 9-amino-3,4-dihydroacridin-1(2H)-one | 8.00 g | NC=1C2=CC=CC=C2N=C2CCCC(C12)=O | C13H12N2O
reactant | 3-fluorobenzyl bromide | 9.25 ml | FC=1C=C(CBr)C=CC1 | C7H6BrF
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium hydrogen sulfate | 1.92 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 3,4-Dihydro-9-(3-fluorobenzylamino)acridin-1(2H)-one | 7.15 g | FC=1C=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)=O)C=CC1 | C20H17FN2O
